US03970664
4.3 g. (0.0625 mol) of sodium nitrite was added in small portions to a stirred solution of 16.4 g. (0.05 mol) of 7-bromo-2-methylamino-5-(2-pyridyl)-3H-1,4-benzodiazepine in 200 ml. of glacial acetic acid. After addition (15 minutes), the mixture was stirred for 30 minutes at room temperature, diluted with water and extracted with ether. The extracts were washed with saturated sodium bicarbonate solution, dried over sodium sulfate and evaporated, giving crude 7-bromo-2-(N-nitrosomethylamino)-5-(2-pyridyl)-3H-1,4-benzodiazepine as an oil. 2 g. of the remaining oil was chromatographed over 60 g. of silica gel using 10 percent ethanol in methylene chloride. The clean fractions were combined and evaporated. The residue was stirred in isopropanol overnight, whereupon crystalline 7-bromo-2-(N-nitrosomethylamino)-5-(2-pyridyl)-3H-1,4-benzodiazepine separated, m.p. 102°-106°.

reactant | sodium nitrite | 0.0625 mol | N(=O)[O-].[Na+]
reactant | 7-bromo-2-methylamino-5-(2-pyridyl)-3H-1,4-benzodiazepine | 0.05 mol | BrC=1C=CC2=C(C(=NCC(=N2)NC)C2=NC=CC=C2)C1 | C15H13BrN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-bromo-2-(N-nitrosomethylamino)-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NCN=O)C2=NC=CC=C2)C1 | C15H12BrN5O
